US07173058B2
3-(4-Difluoromethoxy-3-ethoxy-phenyl)-3-(7-nitro-1-oxo-1,3-dihydro-isoindol-2-yl)-propionic acid methyl ester was prepared by the procedure of example 11 from 3-amino-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid methyl ester (7.3 g, 0.025 mol), 2-bromomethyl-6-nitro-benzoic acid ethyl ester (7.6 g, 0.028 mol) and triethyl amine (7 ml, 0.05 mol) in DMF (50 ml) to provide 3-(4-difluoromethoxy-3-ethoxy-phenyl)-3-(7-nitro-1-oxo-1,3-dihydro-isoindol-2-yl)-propionic acid methyl ester as yellow oil (9.1 g, 81% yield). 1HNMR (CDCl3): δ 1.42 (t, J=7.5 Hz, 3H, OCH2CH3), 3.09 (dd, J=6.8, 15 Hz, 2H, CH2CO), 3.29 (dd, J=6.8, 15 Hz, 1H, CH2CO), 3.65 (s, 3H, OCH3), 4.10 (q, J=7.5 Hz, 2H, OCH2CH3), 4.26 (d, J=17 Hz, 2H, CH2N), 4.46 (d, J=17 Hz, 2H, CH2N), 5.80–5.86 (m, 1H, CHN), 6.55 (t, JH-F=75 Hz, 1H, OCF2H), 6.92 (dd, J=1.8, 8.2 Hz, 1H, Ar), 7.06 (d, J=1.8 Hz, 1H, Ar), 7.14 (d, J=8.25, 1H, Ar), 7.58–7.76 (m, 3H, Ar).

reactant | 3-amino-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid methyl ester | 0.025 mol, 7.3 g | COC(CC(C1=CC(=C(C=C1)OC(F)F)OCC)N)=O | C13H17F2NO4
reactant | 2-bromomethyl-6-nitro-benzoic acid ethyl ester | 0.028 mol, 7.6 g | C(C)OC(C1=C(C=CC=C1[N+](=O)[O-])CBr)=O | C10H10BrNO4
reactant | triethyl amine | 0.05 mol, 7 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-(4-difluoromethoxy-3-ethoxy-phenyl)-3-(7-nitro-1-oxo-1,3-dihydro-isoindol-2-yl)-propionic acid methyl ester | 9.1 g, 81% yield | COC(CC(N1C(C2=C(C=CC=C2C1)[N+](=O)[O-])=O)C1=CC(=C(C=C1)OC(F)F)OCC)=O | C21H20F2N2O7
